* Frozen netlist snapshot for record 20260808-015559-ec75ae2
* source     : sim/smoke-mv-inverter/testbench/smoke_mv_inverter.spice
* sha256     : cc106571815448397248870c5e29864f884ab3780f979a8eb8a2a45958c973b3
* This is a verbatim copy taken at record time. Do not edit.
* smoke-mv-inverter -- harness acceptance testbench (NOT a design deliverable)
*
* Netlist FRAGMENT. The harness supplies the title, .include of the gf180mcu
* models, the corner .lib sections, .temp, the .control block and .end.
* Parameters provided by the harness (see sim/harness/README.md): one
* <rail>_val / <rail>_nom pair per declared rail -- this testbench's
* manifest uses the repo default two rails, so vlogic_val/vlogic_nom and
* vdrv_val/vdrv_nom -- plus temp_c.
*
* Two deliberately independent branches, each proving a different piece of
* the two-rail harness is wired up:
*
*   1. ideal resistive divider off vlogic -> proves vlogic_val parameter
*      plumbing and measurement parsing; PVT-invariant by construction.
*   2. a thick-oxide (nfet_06v0/pfet_06v0) CMOS inverter powered from vdrv,
*      plus a diode-connected nfet_06v0 forced at a fixed current -> proves
*      vdrv_val plumbing on the actual thick-oxide device family this
*      design's drive rail uses (spec/gate-driver.md §2.5), and that the
*      .lib corner sections and .temp actually reach that device family
*      (nfet_06v0's Vgs at fixed current is corner- and temperature-
*      sensitive; see sim/harness/corners.py's module docstring for how the
*      corner .lib sections skew it).
*
* Both branches run at every point of the tied two-rail PVT grid, so one
* record demonstrates the harness sweeping both rails together.

vsup_logic vlogic 0 dc {vlogic_val}
vsup_drv   vdrv   0 dc {vdrv_val}

* --- 1. ideal divider off vlogic: exactly vlogic/2 at every corner/temp/rail
Rtop vlogic ndiv 100k
Rbot ndiv 0   100k

* --- 2a. thick-oxide CMOS inverter, input tied low (deterministic pull to
* vdrv through the PMOS; the off NMOS supplies the leakage path op needs to
* converge). Default W/L from the PDK's nfet_06v0/pfet_06v0 subcircuits.
XM1 vout 0 vdrv vdrv pfet_06v0
XM2 vout 0 0    0    nfet_06v0

* --- 2b. diode-connected nfet_06v0, forced 50 uA -- the corner/temp probe
Iq 0 nbias_drv dc 50u
XM3 nbias_drv nbias_drv 0 0 nfet_06v0
